US04841045
2S 2-Ethyl-2-hydroxyhex-5-enol
A mixture of 2 R 2-ethyl-2,3-epoxypropanol (2.6 g, 25.5 mmol) and copper iodide (475 mg, 2.5 mmol) was stirred in tetrahydrofuran (50 mL) under nitrogen and brought to -30° C. (dry ice, acetonitrile). Vinyl magnesium bromide [32 mL, 2 M in tetrahydrofuran (THF), 2.5 eq] was added from a dropping funnel at such a rate as to maintain the temperature at -25 to -30° C. The reaction mixture was stirred at -30° C. for 2 h then brought to 0° C. and acidified with 10% HCl. The THF layer was separated and the aqueous phase was extracted with ether (3×50 mL). The organic layers were combined, dried over sodium sulfate, oncentrated and distilled to give the title compound as a clear colorless oil (2.2 g, 60%, b.p. 85° C./5 mm). TLC Rf 0.26 (silica gel, 5% MeOH in CH2Cl2, CAS/char:brown).

reactant | 2-ethyl-2,3-epoxypropanol | 25.5 mmol, 2.6 g | C(C)C1(CO)CO1 | C5H10O2
reactant | dry ice | C(=O)=O | CO2
reactant | Vinyl magnesium bromide | 2 M, 32 mL, 2.5 eq | C(=C)[Mg]Br
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | copper iodide | 2.5 mmol, 475 mg | [Cu](I)I
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Ethyl-2-hydroxyhex-5-enol | 2.2 g, 60% | C(C)C(CO)(CCC=C)O | C8H16O2
